US04584293
(b) 4,5-Dichloro-2-nitro-phenylacetic acid
Here, 3,4-dichlorophenylacetic acid (66.7 g, 0.325 mol) is added in batches, with stirring at 5° C., to a mixture of fuming nitric acid (600 ml) and concentrated nitric acid (300 ml). The mixture is stirred for one hour while cooling is continued and the solution is allowed to rise to 20° C. over a period of a further 1.5 hours. The reaction mixture is poured onto ice, the precipitate is suction filtered, washed with ice water until neutral and then dried. Yield: 54.2 g. Mp: 119°-120° C.

reactant | 3,4-dichlorophenylacetic acid | 0.325 mol, 66.7 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | nitric acid | 300 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 600 ml | [N+](=O)(O)[O-] | HNO3
product | 4,5-Dichloro-2-nitro-phenylacetic acid | ClC1=CC(=C(C=C1Cl)CC(=O)O)[N+](=O)[O-] | C8H5Cl2NO4
